US04394508
3-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethylamino}-4-hydroxy-1,2,5-thiadiazole 1,1-dioxide
When 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide is reacted with one equivalent of 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine and the resultant 3-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole, 1,1-dioxide is reacted with sodium hydroxide according to the procedure described in Example 17, Step B, the title compound is produced.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 2-[(2-guanidinothiazol-4-yl)methylthio]ethylamine | one equivalent | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | 3-{2-[(2-guanidinothiazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NSN=C1OC | C10H15N7OS3
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-{2-[(2-Guanidinothiazol-4-yl)methylthio]ethylamino}-4-hydroxy-1,2,5-thiadiazole 1,1-dioxide | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NS(N=C1O)(=O)=O | C9H13N7O3S3
